US06579989B1
3(S)-Benzyloxycarbonylamino-2-caprolactam (Compound 9)
To a solution obtained by dissolving 3(S)-amino-2-caprolactam (5.00 g, 39.01 mmol) in THF (20 ml) and water (40 ml), sodium hydrogen carbonate (4.92 g, 58.56 mol) and benzyloxycarbonyl chloride (5.57 ml, 39.01 mmol) were added under ice cooling, and the mixture was stirred at room temperature for 18 hours.

reactant | 3(S)-amino-2-caprolactam | 39.01 mmol, 5.00 g | N[C@H](C1C(=O)N1)CCC | C6H12N2O
reactant | sodium hydrogen carbonate | 58.56 mol, 4.92 g | C(O)([O-])=O.[Na+]
reactant | benzyloxycarbonyl chloride | 39.01 mmol, 5.57 ml | C(C1=CC=CC=C1)OC(=O)Cl | C8H7ClO2
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | water | 40 ml | O | H2O
product | 3(S)-Benzyloxycarbonylamino-2-caprolactam | C(C1=CC=CC=C1)OC(=O)N[C@H](C1C(=O)N1)CCC | C14H18N2O3
